* ctle_dut — generated from DeviceSpecs; do not edit by hand
.SUBCKT ctle_dut outp outn inp inn vdd vss mgate e1 e2 nlp1 nlp2
M1 mgate mgate vss vss sg13_lv_nmos w=243u l=1u ng=1 m=1
M2 e1 mgate vss vss sg13_lv_nmos w=243u l=1u ng=1 m=1
M3 e2 mgate vss vss sg13_lv_nmos w=243u l=1u ng=1 m=1
R1 e1 e2 vss rsil m=1 l=5u w=0.5u
Q1 outp inp e1 vss npn13G2 le=0.9u we=0.07u m=1
Q2 outn inn e2 vss npn13G2 le=0.9u we=0.07u m=1
R2 outp nlp1 vss rppd m=1 l=1.4u w=5u
R3 outn nlp2 vss rppd m=1 l=1.4u w=5u
.ENDS ctle_dut
